US09126952B2
87.0 g (1.33 mol) of sodium cyanate were added to 269.0 g (1.17 mol) of methyl 2-amino-4-bromobenzoate in 1.2 l of acetic acid with stirring at room temperature, and the mixture was subsequently stirred for a further 22 h. The reaction mixture was diluted with 1.5 l of water, and the residue was filtered off with suction. 0.42 l of sodium hydroxide solution (32%) was added to the solid, the mixture was diluted with 3.5 l of water and heated on a steam bath for 4 h. After cooling, the solid residue was filtered off with suction. Conventional work-up gave 205.2 g of 7-bromo-1H-benzo[d]-1,3-oxazine-2,4-dione; HPLC/MS (M+H)+=243 as solid.

reactant | sodium cyanate | 1.33 mol, 87.0 g | [O-]C#N.[Na+]
reactant | methyl 2-amino-4-bromobenzoate | 1.17 mol, 269.0 g | NC1=C(C(=O)OC)C=CC(=C1)Br | C8H8BrNO2
solvent | acetic acid | 1.2 l | C(C)(=O)O | C2H4O2
solvent | water | 1.5 l | O | H2O
product | 7-bromo-1H-benzo[d]-1,3-oxazine-2,4-dione | 205.2 g | BrC=1C=CC2=C(NC(OC2=O)=O)C1 | C8H4BrNO3
